* source NR7_OSC_DREPTUNGHIULAR
R_R12         0 N62123  1k TC=0,0 
R_R15         N62167 0  1k TC=0,0 
R_R14         N62167 0  1k TC=0,0 
R_R13         0 N62123  1k TC=0,0 
C_C2         N64078 N64096  4.7p  TC=0,0 
R_R9         N63582 GND  6.8k TC=0,0 
Q_Q5         N61995 N64078 N63672 QBC846B 
X_U4         N66767 N62017 1N4148 
Q_Q7         N62017 N63622 N63672 QBC856B 
Q_Q1         N64096 N63788 N63626 QBC846B 
X_R2         N63896 N63896 N63672 POT PARAMS: SET=0.2575 VALUE=10k
R_R4         N64096 N61995  680 TC=0,0 
Q_Q2         N64100 N63800 N63626 QBC846B 
R_R3         N64100 N61995  680 TC=0,0 
Q_Q4         N63622 N63582 N63510 QBC846B 
X_U3         N63582 N66767 1N4148 
C_C1         N63800 GND  22n  TC=0,0 
R_R8         N67940 N62017  330 TC=0,0 
Q_Q6         N64078 N64096 N61995 QBC856B 
R_R1         N63800 N63896  330 TC=0,0 
R_R7         N62017 N63510  330 TC=0,0 
Q_Q3         N63626 N63582 N67940 QBC846B 
X_R10         N63672 N63672 N86216 POT PARAMS: SET=0.165 VALUE=500k
R_R6         GND N63788  10k TC=0,0 
R_R5         N63788 N63672  10k TC=0,0 
X_U8         N64078 N73487 1N4148 
X_U7         N73487 N63622 1N4148 
X_D1         N62017 N62167 PARAMS:              
X_D2         N62123 N61995 PARAMS:              
R_RL1         N86220 N86216  4.7k TC=0,0 
R_RL2         N86224 N86220  2.2k TC=0,0 
